US05998436
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-7-(3-methylaminoazetidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 200 mg of N,N-dimethylformamide were added 65 mg 1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 45 mg of 3-methylaminoazetidine dihydrochloride, and 100 mg of N-methylpyrrolidine together with 3 drops of ethanol, and the mixture was stirred at 85° C. for 30 minutes. After adding 0.2 ml of ethanol, the solution was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 52 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 200 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 65 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O)F)F | C15H6F5N3O3
reactant | 3-methylaminoazetidine dihydrochloride | 45 mg | Cl.Cl.CNC1CNC1
reactant | N-methylpyrrolidine | 100 mg | CN1CCCC1 | C5H11N
catalyst | ethanol | 3 drops | C(C)O | C2H6O
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-7-(3-methylaminoazetidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 52 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)NC)F)=O)C(=O)O)F)F | C19H15F4N5O3
